US05977152
(RS)-3-Methyl-1-(1H-1,2,4-triazol-1-yl)-2-[4-(trifluoromethyl)phenyl]-3-[[trans-2-[(1E,3E)-4-[(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol
Reaction was carried out in the same manner as in Example 4 using (RS)-3-[(1,3-dihydroxy-2-propyl)thio]-3-methyl-2-[4-(trifluoromethyl)phenyl]-1-(1H-1,2,4-triazol-1-yl)-2-butanol as described in Reference example 55 and (2E,4E)-5-[4-(trifluoromethyl)phenyl]-2,4-pentadienal as described in Reference example 25 to obtain the title compound, a major product as a colorless foam.

reactant | (RS)-3-[(1,3-dihydroxy-2-propyl)thio]-3-methyl-2-[4-(trifluoromethyl)phenyl]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | OCC(CO)SC(C(CN1N=CN=C1)(O)C1=CC=C(C=C1)C(F)(F)F)(C)C | C17H22F3N3O3S
reactant | (2E,4E)-5-[4-(trifluoromethyl)phenyl]-2,4-pentadienal | FC(C1=CC=C(C=C1)/C=C/C=C/C=O)(F)F | C12H9F3O
product | (RS)-3-Methyl-1-(1H-1,2,4-triazol-1-yl)-2-[4-(trifluoromethyl)phenyl]-3-[[trans-2-[(1E,3E)-4-[(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol | CC(C(CN1N=CN=C1)(O)C1=CC=C(C=C1)C(F)(F)F)(C)S[C@H]1CO[C@@H](OC1)\C=C\C=C\C1=C(C=CC=C1)C(F)(F)F | C29H29F6N3O3S
